US06906067B2
2-(t-Butyl-dimethyl-silanyloxymethyl)-4-hydroxy-pyrrolidine-1-carboxylic acid t-butyl ester
The 4-benzyloxy-2-(t-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-1-carboxylic acid t-butyl ester (267.49 mg, 0.63 mmol) was taken up in ethyl acetate in a Paar vessel. The solution was flushed with argon and Pd/C (100 mg) was added to the vessel. The argon atmosphere was replaced by hydrogen at 50 psi. The vessel was shaken for 12 h. The hydrogen atmosphere was replaced by argon and the solution was filtered through a celite pad. The pad was washed twice with ethyl acetate. The solvent was removed under reduced pressure. The product was used without further purification. Yield 192.15 mg. C16H33NO4Si ms m/e=3.32.2 (M+H).

reactant | 4-benzyloxy-2-(t-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-1-carboxylic acid t-butyl ester | 0.63 mmol, 267.49 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)OCC1=CC=CC=C1)C(O[SiH2]C(C)(C)C)(C)C | C23H39NO4Si
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(t-Butyl-dimethyl-silanyloxymethyl)-4-hydroxy-pyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)O)C(O[SiH2]C(C)(C)C)(C)C | C16H33NO4Si
